US04000143
Reaction of 4-bromobenzoyl chloride with 2-(o-aminophenethyl)-1-methylpiperidine according to the procedure of Example 114 affords 4-bromo-2'-[2-(1methyl-2-piperidyl)ethyl]benzanilide, m.p. 137.5° - 138.5° C. (corr.), from ethyl acetate.

reactant | 4-bromobenzoyl chloride | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | 2-(o-aminophenethyl)-1-methylpiperidine | NC1=C(CCC2N(CCCC2)C)C=CC=C1 | C14H22N2
product | 4-bromo-2'-[2-(1methyl-2-piperidyl)ethyl]benzanilide | BrC1=CC=C(C(=O)NC2=C(C=CC=C2)CCC2N(CCCC2)C)C=C1 | C21H25BrN2O
